US09029391B2
(R)-4-bromo-3-(2-((tert-butyldiphenylsilyl)oxy)-1-hydroxyethyl)-1H-isochromen-1-one
A solution of 4-bromo-3-[(1R)-1,2-dihydroxyethyl]-1H-2-benzopyran-1-one (145 mg, 0.509 mmol) and imidazole (51.9 mg, 0.763 mmol) in N,N-Dimethylformamide (DMF) (2.4 mL) was treated with tert-butyldiphenylchlorosilane (159 μl, 0.610 mmol). After 20 min, the reaction mixture was poured into water and extracted with EtOAc. The organic phase was dried with Na2SO4, filtered and concentrated. The residue was purified by silica gel chromatography (ethyl acetate-hexanes 0-50%) to afford the title compound (169 mg, 0.323 mmol, 64% yield) as a white foam: Rt=1.24 min, ES+ MS: 546 (M+23).

reactant | 4-bromo-3-[(1R)-1,2-dihydroxyethyl]-1H-2-benzopyran-1-one | 0.509 mmol, 145 mg | BrC1=C(OC(C2=C1C=CC=C2)=O)[C@@H](CO)O | C11H9BrO4
reactant | imidazole | 0.763 mmol, 51.9 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylchlorosilane | 0.610 mmol, 159 μl | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | water | O | H2O
solvent | N,N-Dimethylformamide | 2.4 mL | CN(C=O)C | C3H7NO
product | (R)-4-bromo-3-(2-((tert-butyldiphenylsilyl)oxy)-1-hydroxyethyl)-1H-isochromen-1-one | 0.323 mmol, 169 mg, 64% yield | BrC1=C(OC(C2=CC=CC=C12)=O)[C@@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O | C27H27BrO4Si
